US06825188B2
d) Methyl (±)-8-methoxy-2-methyl-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate
A solution of methyl (±)-3-carbomethoxy-4-[2-(methylamino)methyl-4-methoxyphenyl]butanoate (11.06 mmole) and diisopropylethylamine (5.8 mL, 33.18 mmole) in toluene (110 mL) was heated at reflux for 25 hr, stirred at RT for 4 days, then heated at reflux for another 24 hr. Concentration and silica gel chromatography (5% MeOH in 1:1 EtOAc/CHCl3) gave the title compound (2.88 g, 94%) as a light yellow solid: TLC (5% MeOH in 1:1 EtOAc/CHCl3) Rf 0.63; 1H NMR (250, CDCl3) δ 7.02 (d, J=8.4 Hz, 1 H, 6.78 (dd, J=8.4, 2.7 Hz, 1 H), 6.63 (d, J=2.7 Hz, 1 H), 5.29 (d, J=16.3 Hz, 1 H), 3.50-3.90 (m, 2 H), 3.79 (s, 3 H), 3.71 (s, 3 H), 2.73-3.16 (m, 3 H), 3.04 (s, 3 H), 2.41 (dd, J=16.7, 5.4 Hz, 1 H; MS (ES) m/e 300 (M+Na)+, 278 (M+H)+.

reactant | methyl (±)-3-carbomethoxy-4-[2-(methylamino)methyl-4-methoxyphenyl]butanoate | 11.06 mmole | C(=O)(OC)C(CC(=O)OC)CC1=C(C=C(C=C1)OC)CNC | C16H23NO5
reactant | diisopropylethylamine | 33.18 mmole, 5.8 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | toluene | 110 mL | C1(=CC=CC=C1)C | C7H8
product | Methyl (±)-8-methoxy-2-methyl-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate | 2.88 g, 94% | COC1=CC2=C(CC(C(N(C2)C)=O)CC(=O)OC)C=C1 | C15H19NO4
